US06025496
A) Preparation of 1-(2'-diethylaminoethyl)-3-methylimidazolium chloride hydrochloride (8a)
4.9 g (60 mmol) of N-methylimidazole are added to 8.6 g (50 mmol) of 2-(diethylamino)ethyl chloride hydrochloride in 50 ml of absolute ethanol and the mixture is refluxed for 12 hours.

reactant | N-methylimidazole | 60 mmol, 4.9 g | CN1C=NC=C1 | C4H6N2
reactant | 2-(diethylamino)ethyl chloride hydrochloride | 50 mmol, 8.6 g | Cl.C(C)N(CCCl)CC
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2'-diethylaminoethyl)-3-methylimidazolium chloride hydrochloride | Cl.[Cl-].C(C)N(CC[N+]1=CN(C=C1)C)CC | InChI=1S/C10H20N3.2ClH/c1-4-12(5-2)8-9-13-7-6-11(3)10-13;;/h6-7,10H,4-5,8-9H2,1-3H3;2*1H/q+1;;/p-1
